US05665737
c) N,O-di-(3,5-di-t-butyl-4-hydroxy-phenylacetyl)-6-amino-2-bromo-4-chloro-phenol
Water (173 ml) and sodium carbonate (33.24 g, 310 mM) were added to a stirred ethereal solution (123 ml) of 6-amino-2-bromo-4-chloro-phenol (17.45 g, 78.4 mM). After 15 minutes 3,5-di-t-butyl-4-hydroxy-phenylacetyl chloride (47.60 g, 93.1%, 156.8 mM) (prepared with thionyl chloride from the corresponding acid), was added at -5° to 0° C. and stirring continued for a further 1.5 hours without cooling. The aqueous phase was adjusted to pH 8 and the layers separated. The organics were washed with 1N HCl (100 ml) and saturated aqueous sodium bicarbonate solution (100 ml), dried (Na2SO4) and evaporated in-vacuo to give 58.1 g (103.6%) of the title compound which was suitable for the next step.

reactant | sodium carbonate | 310 mM, 33.24 g | C([O-])([O-])=O.[Na+].[Na+]
reactant | 6-amino-2-bromo-4-chloro-phenol | 78.4 mM, 123 ml, 17.45 g | NC1=CC(=CC(=C1O)Br)Cl | C6H5BrClNO
reactant | 3,5-di-t-butyl-4-hydroxy-phenylacetyl chloride | 156.8 mM, 47.60 g | C(C)(C)(C)C=1C=C(C=C(C1O)C(C)(C)C)CC(=O)Cl | C16H23ClO2
reactant | thionyl chloride | S(=O)(Cl)Cl | Cl2OS
solvent | Water | 173 ml | O | H2O
product | N,O-di-(3,5-di-t-butyl-4-hydroxy-phenylacetyl)-6-amino-2-bromo-4-chloro-phenol | 58.1 g, 103.6% | C(C)(C)(C)C=1C=C(C=C(C1O)C(C)(C)C)CC(=O)NC1=CC(=CC(=C1OC(CC1=CC(=C(C(=C1)C(C)(C)C)O)C(C)(C)C)=O)Br)Cl | C38H49BrClNO5
